plaintext
* Circuit Netlist
Vin 4 0 DC 0  ; Voltage Source Vin connected to node 4 and ground
V1 4 0 DC 0   ; Voltage Source V1 between node 4 and ground

* Dependent Current Source g_m * V1
G1 2 3 4 0 gm ; G1 is the current source from node 2 to node 3, controlled by voltage on nodes 4 0

* Resistor
RS 3 0 Rs     ; Resistor RS from node 3 to ground

* Analysis directive
.OP
.END